US08563565B2
(4) Synthesis of (S)-7-(2-methoxy-3,5-dimethylpyridin-4-yl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one
Sodium hydroxide powder (9.43 g) was added at one time to a solution of 5-[2-fluoro-4-(2-methoxy-3,5-dimethylpyridin-4-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxamide (37.2 g) in DMSO (186 mL) at room temperature. The reaction mixture was stirred at the same temperature for 50 minutes and then at 70° C. for 45 minutes. Under water-cooling, water (600 mL) was added dropwise to the reaction mixture, and then acetic acid (13.5 mL) was added dropwise. The precipitated powder was collected by filtration. The collected subject was washed with water and MTBE and then dried under reduced pressure to give the title compound (34.0 g).

reactant | Sodium hydroxide | 9.43 g | [OH-].[Na+]
reactant | 5-[2-fluoro-4-(2-methoxy-3,5-dimethylpyridin-4-yl)phenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxamide | 37.2 g | FC1=C(C=CC(=C1)C1=C(C(=NC=C1C)OC)C)C1=C(C=NN1[C@@H]1COCC1)C(=O)N | C22H23FN4O3
reactant | water | 600 mL | O | H2O
reactant | acetic acid | 13.5 mL | C(C)(=O)O | C2H4O2
solvent | DMSO | 186 mL | CS(=O)C | C2H6OS
product | (S)-7-(2-methoxy-3,5-dimethylpyridin-4-yl)-1-(tetrahydrofuran-3-yl)-1H-pyrazolo[4,3-c]quinolin-4(5H)-one | 34.0 g | COC1=NC=C(C(=C1C)C=1C=CC=2C3=C(C(NC2C1)=O)C=NN3[C@@H]3COCC3)C | C22H22N4O3
